US04830470
A solution of 2.7 g of 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol in absolute dichloromethane was treated dropwise at 0° C. with a solution of 1.6 g of bromine in 20 ml of absolute dichloromethane. The mixture was stirred for 1 hour and then poured into ice-water. The organic phase was separated and the aqueous phase was back-extracted three times with 50 ml of dichloromethane each time. The combined organic phases were washed with 50 ml of 2N sodium carbonate solution and several times with water, dried over magnesium sulphate and concentrated. Recrystallization of the resulting crude product from hexane at 0° C. gave 3.4 g of 2-bromo-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol.

reactant | 4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol | 2.7 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)O | C19H30O
reactant | bromine | 1.6 g | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-bromo-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenol | 3.4 g | BrC1=C(C=CC(=C1)CC[C@@H]1CC[C@H](CC1)CCCCC)O | C19H29BrO
